US06211215B1
In substantially the same manner as in Reference Example 47, 2-furancarboxamide was aollowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(2-furyl)oxazole. The yield was 47%. Oily substance.

reactant | 2-furancarboxamide | O1C(=CC=C1)C(=O)N | C5H5NO2
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(2-furyl)oxazole | yield was 47% | ClCC=1N=C(OC1)C=1OC=CC1 | C8H6ClNO2
